US06555560B2
1-[5-Hydroxy-3-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-1-ethanone
To a solution of 2′,3′,4′-trihydroxyacetophenone (10.6 g, 63.0 mmole) in DMF (75 mL) was added potassium carbonate (17.4 g, 126 mmole). After 5 minutes (R)-glycidyl tosylate (9.67 g, 42,3 mmole) was added then the heterogeneous mixture was heated to 70° C. for 3 hours. After removal of the solvent in vacuum, the residue was taken into water (800 mL) and was then extracted with ethyl acetate (4×300 mL). The combined organic layers were dried over MgSO4, filtered and evaporate to dryness in vacuum. The crude brown oil thus obtained was column chromatographed on silica gel with 40% hexane/ethyl acetate as eluant to give the (S)-enantiomer of the title compound as a yellow oil which solidifies upon standing (7.5 g, 78%). MS (ESI) m/z 223 (M−H)−.

reactant | 2′,3′,4′-trihydroxyacetophenone | 63.0 mmole, 10.6 g | OC1=C(C=CC(=C1O)O)C(C)=O | C8H8O4
reactant | potassium carbonate | 126 mmole, 17.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-glycidyl tosylate | 42,3 mmole, 9.67 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 1-[5-Hydroxy-3-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-1-ethanone | OC1=C(C=CC=2OCC(OC21)CO)C(C)=O | C11H12O5
